US07446102B2
Benzyl({(2R,4S)-4-[(tert-butoxycarbonyl)amino]-5-oxotetrahydrofuran-2-yl}methyl)carbamate
A solution of 7.60 g (17.3 mmol) of tert-butyl 5-benzyloxycarbonylamino-2(S)-tert-butoxycarbonylamino-4(R)-hydroxypentanoate (Org. Lett. (2001) 3, 20:3153-3155) in 516 ml of dichloromethane and 516 ml of trifluoroacetic acid is stirred at RT for 2 h. The solvent is evaporated. The remaining crude product is dissolved in 2.6 l of anhydrous methanol and, while stirring at 0° C., 6.3 g (28.8 mmol) of di-tert-butyl dicarbonate and 7.3 ml (52.43 mmol) of triethylamine are added. After 15 h, the reaction solution is evaporated and the residue is taken up in 1 l of ethyl acetate. After the phases have separated, the organic phase is extracted twice with a 5% citric acid solution, twice with water and once with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated. The crude product is purified by chromatography on silica gel with toluene/acetone (5/1). 4.92 g (78% of theory) of product are obtained.

reactant | tert-butyl 5-benzyloxycarbonylamino-2(S)-tert-butoxycarbonylamino-4(R)-hydroxypentanoate | 17.3 mmol, 7.60 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H](C[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)O | C22H34N2O7
reactant | di-tert-butyl dicarbonate | 28.8 mmol, 6.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 52.43 mmol, 7.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 516 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 516 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Benzyl({(2R,4S)-4-[(tert-butoxycarbonyl)amino]-5-oxotetrahydrofuran-2-yl}methyl)carbamate | C(C1=CC=CC=C1)OC(NC[C@@H]1OC([C@H](C1)NC(=O)OC(C)(C)C)=O)=O | C18H24N2O6
